Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Adhesive
 
Attending: ___.
 
Chief Complaint:
Left leg weakness, confusion
 
Major Surgical or Invasive Procedure:
Right Burr hole evacuation of ___, Dr. ___ ___

 
History of Present Illness:
This is an ___ year old man who was transferred from ___ on 
___ with ___ R SDH noted on CT scan.  Dr. ___ 
___ a mechanical fall nearly 5 weeks
ago when stepping over his cat and fell down ~6 stairs to a 
carpeted landing, striking his head on the land.  He reports ~10 
second LOC and his wife heard the fall and found him awake and 
alert when she arrived at his side.  He was oriented and denied 
pain although did sustain some bruising on his arms at that 
time. His wife did not note changes in his speech or behavior at 
that
time and he denied visual changes or weakness following the 
event.

For about ___ days his wife had noted he has been confused with 
simple activities of daily living such as making coffee, and he 
seems confused with questions she asks.  He has also had 
progressive L leg weakness over the past several days. Mrs. 
___ took her husband to ___ where he was 
noted to have a large R SDH on CT scan.  He was transferred to 
___ for further care.

 
Past Medical History:
- HTN
 - CAD without h/o MI
 - Bradycardia
 - Hyperlipidemia
 - Multiple basal cell and squamous cell skin cancers
 - Depression
 -appendectomy
 - inguinal herniorrhaphy

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission: O: T: 98.2  BP: 144/56  HR: 35   R 12  O2Sats 99RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRLA  EOMs intact
Neck: Supple.  
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect. Somewhat slow to answer question and memory of
recent/remote events somewhat impaired (corroborated with wife).
___ to person, place, and date.
Language: Speech fluent. Naming intact. No dysarthria or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. No pronator drift.

      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R    ___  ___   ___   ___  ___   ___  ___   ___   ___   ___
L    ___  ___   ___   ___  ___   ___  ___   ___   ___   ___

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.
Reflexes: B T Br Pa Ac
Right all intact
Left  all intact
Toes downgoing bilaterally
Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin.

At Discharge: Neurologically intact. Scalp stples and one drain 
suture.
 
Pertinent Results:
CT head ___
1.  Status post burr hole drainage for right acute on chronic 
subdural 
hematoma, with expected post-surgical pneumocephalus with 
hyperdensity noted within the right subdural hematoma, which may 
represent post-surgical blood products as well as residual 
hemorrhage. 
2.  Extracranial products and locules of air at the surgical 
site. 
3.  Mass effect on right lateral ventricle has decreased.  

ECG ___
Marked sinus bradycardia. Right bundle-branch block. Q-T 
interval 
prolongation. No previous tracing available for comparison 

 
Brief Hospital Course:
Dr. ___ was admitted to ___ on ___. He was taken to the 
___ with Dr. ___ ___ evacuation of ___. A drain was 
left in place and he was flat overnight. He was neurologically 
stable on ___. His HOB was elevated gradually. Post-op CT 
showed good evacuation of hemorrhage. His subdural drain 
increased in output when he was elevated in the pm on ___. He 
remained stable with no headache, nausea, dizziness. He had some 
mild twitching of his shoulder bilaterally with no other symptom 
to suggest seizure but he was cautiously place on Keppra 500 
BID. He also had some intermittent bradycardia and his atenolol 
was made BID instead of QD.

He was transferred to the SDU and his drain was removed. He 
retained more then 500 cc of urine and a catheter was placed 
over night. On ___ he no longer had any left sided weakness, he 
was moved to floor status. He was being seen by ___ and screened 
for rehab. He was transferred there on ___.
 
Medications on Admission:
Allopurinol ___ mg PO DAILY 
Citalopram 20 mg PO DAILY
Simvastatin 10 mg PO DAILY  
Tamsulosin 0.4 mg PO HS  
Omeprazole 20 mg PO DAILY  
BuPROPion 150 mg PO BID  
Finasteride 5 mg PO DAILY  
Chlorthalidone 25 mg PO DAILY  
Doxycycline Hyclate 100 mg PO Q24H 
Atenolol 37.5 QD  

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN headache 
2. Allopurinol ___ mg PO DAILY 
3. Bisacodyl 10 mg PO/PR DAILY 
4. Citalopram 20 mg PO DAILY 
5. Heparin 5000 UNIT SC TID 
6. LeVETiracetam 500 mg PO BID 
7. Senna 1 TAB PO BID 
8. Simvastatin 10 mg PO DAILY 
9. Tamsulosin 0.4 mg PO HS 
10. Omeprazole 20 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN headache 
hold rr < 12 
12. Docusate Sodium 100 mg PO BID 
13. BuPROPion 150 mg PO BID 
14. Finasteride 5 mg PO DAILY 
15. Chlorthalidone 25 mg PO DAILY 
16. Atenolol 25 mg PO DAILY IN AM 
hold for Heart rate < 50 
17. Atenolol 12.5 mg PO DAILY IN ___ 
Hold for HR < 50 
18. Doxycycline Hyclate 100 mg PO Q24H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Subdural Hematoma.
Urinary retention
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Craniotomy for Hemorrhage

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•**Your wound was closed with staples. You may wash your hair 
only after sutures and/or staples have been removed. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Advil, and Ibuprofen 
etc. 
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin, prior to your injury, you may 
safely resume taking this after evaluation with your surgeron in 
one month WITH THE EXCEPTION OF ASPIRIN, YOU CAN TAKE ASPIRIN IN 
ONE WEEK.
•You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

___ onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101.5° F.

 
Followup Instructions:
___